US04060528
A mixture of 23.5 parts of p-ethylphenyl 2-thienyl ketone, 19.5 parts of N-bromosuccinimide, 220 parts of carbon tetrachloride, 1.1 parts of benzoyl peroxide and one drop of toluene is stirred and refluxed for 2 hours. The precipitated succinimide is filtered off and the carbon tetrachloride filtrate is dried and evaporated. The oily residue solidifies on cooling. The solid product is dissolved in 2-propanol and the product is allowed to crystallize. It is filtered off and dried in vacuo, yielding α-bromo-α-methyl-p-tolyl 2-thienyl ketone; mp. 71.1° C.

reactant | p-ethylphenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)CC | C13H12OS
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | toluene | one drop | C1(=CC=CC=C1)C | C7H8
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-bromo-α-methyl-p-tolyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)Br | C13H11BrOS
